US04377522
From 4.5 g (0.011 mol) of 7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one there is obtained, in analogy to the details in Example 4, via [6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate, 1-[6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7yl]-3-(2-hydroxyethyl)urea of melting point 214°-218° (acetone/ether).

reactant | [6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate | BrC1=C(C=CC2=C1C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)Cl)N=C=O | C19H15BrClN3O2
reactant | 1-[6-bromo-5-(o-chlorophenyl)-2,3-dihydro-1,3,3-trimethyl-2-oxo-1H-1,4-benzodiazepin-7yl]-3-(2-hydroxyethyl)urea | BrC1=C(C=CC2=C1C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)Cl)NC(=O)NCCO | C21H22BrClN4O3
solvent | acetone ether | CC(=O)C.CCOCC
product | 7-amino-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.011 mol, 4.5 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)Cl)C1Br | C18H17BrClN3O
